US06420549B1
5′-O-tert-Butyldiphenylsilyl-N6-benzoyl-2′-O-(formylmethyl)-adenosine
5′-O-tert-butyldiphenylsilyl-N6-benzoyl-2′-O-(2,3-dihydroxypropyl)-adenosine (5.59 g, 8.17 mmol) was dissolved in dry CH2Cl2 (40.42 mL). To this NaIO4 adsorbed on silica gel (Ref. J. Org. Chem. 1997, 62, 2622-2624) (16.34 g, 2 g/mmol) was added and stirred at ambient temperature for 30 minutes. Reaction monitored by TLC (5% MeOH in CH2Cl2). Reaction mixture was filtered and the filtrate washed thoroughly with CH2Cl2. Dichloromethane layer evaporated to get the title compound (5.60 g) that was used in the next step without purification. Rf 0.3 (5% MeOH in CH2Cl2).

reactant | 5′-O-tert-butyldiphenylsilyl-N6-benzoyl-2′-O-(2,3-dihydroxypropyl)-adenosine | 8.17 mmol, 5.59 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)OCC(CO)O)O | C36H41N5O7Si
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 40.42 mL | C(Cl)Cl | CH2Cl2
product | 5′-O-tert-Butyldiphenylsilyl-N6-benzoyl-2′-O-(formylmethyl)-adenosine | 5.60 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)OCC=O)O | C35H37N5O6Si
